US07763584B2
A mixture of (2R,6S,13aS,14aR,16aS,Z)-ethyl 2-(biphenyl-4-yl)-6-(tert-butoxycarbonylamino)-2-methoxy-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate (56 mg, 0.085 mmol), LiOH monohydrate (40.7 mg, 1.70 mmol) in tetrahydrofuran (2 mL)/water (0.5 mL)/MeOH (1 mL) was stirred at rt for 18 h. It was then concentrated in vacuo, and washed with ether. The aqueous phase was adjusted to pH=4 using 1N HCl and extracted with EtOAc. The EtOAc extract was dried over MgSO4, filtered and concentrated in vacuo to give 52 mg (97%) of (2R,6S,13aS,14aR,16aS,Z)-2-(biphenyl-4-yl)-6-(tert-butoxycarbonylamino)-2-methoxy-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid as an off-white solid.

reactant | (2R,6S,13aS,14aR,16aS,Z)-ethyl 2-(biphenyl-4-yl)-6-(tert-butoxycarbonylamino)-2-methoxy-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | 0.085 mmol, 56 mg | C1(=CC=C(C=C1)[C@@]1(C[C@@H]2N(C([C@H](CCCCC\C=C/[C@H]3[C@](NC2=O)(C3)C(=O)OCC)NC(=O)OC(C)(C)C)=O)C1)OC)C1=CC=CC=C1 | C38H49N3O7
reactant | water | 0.5 mL | O | H2O
reactant | MeOH | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2R,6S,13aS,14aR,16aS,Z)-2-(biphenyl-4-yl)-6-(tert-butoxycarbonylamino)-2-methoxy-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | 52 mg, 97% | C1(=CC=C(C=C1)[C@@]1(C[C@@H]2N(C([C@H](CCCCC\C=C/[C@H]3[C@](NC2=O)(C3)C(=O)O)NC(=O)OC(C)(C)C)=O)C1)OC)C1=CC=CC=C1 | C36H45N3O7
